US04471116
In a glass lined vessel, 1-benzyloxy-4-(3-bromopropoxy)benzene (33.4 g) in 300 ml of isopropylamine was heated at 100° for 10 hours under nitrogen at 1000 psi, then the excess isopropylamine was removed in vacuo and the residue was dissolved in 300 ml of water. The solution was made alkaline with 10% sodium hydroxide and the resulting oil extracted with dichloromethane. The dichloromethane extract, dried over potassium carbonate, was concentrated and distilled to yield 22.5 g of 1-benzyloxy-4-[3-(1-methylethyl)aminopropoxy]benzene, boiling range 180°-190° (0.5 mm) (97.8% pure by gas chromatography).

reactant | 1-benzyloxy-4-(3-bromopropoxy)benzene | 33.4 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCCCBr | C16H17BrO2
reactant | isopropylamine | 300 ml | C(C)(C)N | C3H9N
product | 1-benzyloxy-4-[3-(1-methylethyl)aminopropoxy]benzene | 22.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCCCNC(C)C | C19H25NO2
